US07071177B2
4-[(4-methyl-benzyl)-amino]-[N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide (1.03 g, 2.6 mmol) was dissolved in 6 mL of DMF at room temperature, to which methylvinyl sulfone (0.175 mL, 2.0 mmol) and sodium hydride (95%, 60 mg, 2.4 mmol) were added. The reaction was stirred at room temperature for 1.5 h, partitioned between ethyl acetate and water, dried over MgSO4 and purified by column chromatography, eluting with 1:4 acetone/hexane, to provide 935 mg of 4-[(2-methylsulfonyl-ethyl)-(4-methyl-benzyl)-amino]-[N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide.

reactant | 4-[(4-methyl-benzyl)-amino]-[N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide | 2.6 mmol, 1.03 g | CC1=CC=C(CNC2=CC=C(C=C2)S(=O)(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C=C1 | C30H32N2O4S
reactant | methylvinyl sulfone | 2.0 mmol, 0.175 mL | CS(=O)(=O)C=C | C3H6O2S
reactant | sodium hydride | 2.4 mmol, 60 mg | [H-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-[(2-methylsulfonyl-ethyl)-(4-methyl-benzyl)-amino]-[N,N-bis(4-methoxy-benzyl)]-benzenesulfonamide | 935 mg | CS(=O)(=O)CCN(C1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)C | C33H38N2O6S2
